US04426382
4-Amino-2-[4-(2-cyclopentyl-2-phenylacetyl)-1-piperazinyl]-6,7-dimethoxyquinazoline hydrochloride (Compound No. 79 hydrochloride)
To 25 ml of isopentanol were added 1.2 g of 4-amino-2-chloro-6,7-dimethoxyquinazoline and 1.63 g of 1-(2-cyclopentyl-2-phenylacetyl)piperazine, and the resulting mixture was heated under reflux for 4 hours. The crystals thus produced were collected by filtration and neutralized by the addition of a 10% w/w aqueous solution of sodium hydroxide. The resulting mixture was extracted with chloroform and the extract was charged into a silica gel chromatography column and eluted with chloroform. A 10% w/w solution of hydrogen chloride in ethanol was added to the eluate and the crystals thus produced were collected by filtration, giving 1.15 g of the desired Compound No. 79 hydrochloride in the form of pale yellow powdery crystals melting at 222°-224° C. (with decomposition).

reactant | 4-amino-2-chloro-6,7-dimethoxyquinazoline | 1.2 g | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)Cl | C10H10ClN3O2
reactant | 1-(2-cyclopentyl-2-phenylacetyl)piperazine | 1.63 g | C1(CCCC1)C(C(=O)N1CCNCC1)C1=CC=CC=C1 | C17H24N2O
solvent | isopentanol | 25 ml | C(CC(C)C)O | C5H12O
product | 4-Amino-2-[4-(2-cyclopentyl-2-phenylacetyl)-1-piperazinyl]-6,7-dimethoxyquinazoline hydrochloride | 1.15 g | Cl.NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C(C(C1=CC=CC=C1)C1CCCC1)=O | InChI=1S/C27H33N5O3.ClH/c1-34-22-16-20-21(17-23(22)35-2)29-27(30-25(20)28)32-14-12-31(13-15-32)26(33)24(19-10-6-7-11-19)18-8-4-3-5-9-18;/h3-5,8-9,16-17,19,24H,6-7,10-15H2,1-2H3,(H2,28,29,30);1H
